US08466186B2
(b) 2-Amino-3-nitro-6-(3-trifluoromethyl-piperidin-1-yl)benzonitrile
A mixture of 2-amino-6-fluoro-3-nitrobenzonitrile (3.1 g, 17 mmol), 3-trifluoromethylpiperidine (2.5 g, 19 mmol), TEA (3.4 g, 34 mmol) and THF (110 mL) was stirred under Ar at rt for 3 h. The mixture was concentrated and poured into H2O and thereafter extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. Crystallization from EtOAc gave the sub-title compound.

reactant | 2-amino-6-fluoro-3-nitrobenzonitrile | 17 mmol, 3.1 g | NC1=C(C#N)C(=CC=C1[N+](=O)[O-])F | C7H4FN3O2
reactant | 3-trifluoromethylpiperidine | 19 mmol, 2.5 g | FC(C1CNCCC1)(F)F | C6H10F3N
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | 2-Amino-3-nitro-6-(3-trifluoromethyl-piperidin-1-yl)benzonitrile | NC1=C(C#N)C(=CC=C1[N+](=O)[O-])N1CC(CCC1)C(F)(F)F | C13H13F3N4O2
